US07977358B2
(3-Diethylamino-pyrrolidin-1-yl)-{3,5-dimethyl-1-[3-(3-methyl-but-1-ynyl)-phenyl]-1H-pyrazol-4-yl}-methanone
In analogy to the procedure described in Example 31F], [1-(3-bromo-phenyl)-3,5-dimethyl-1H-pyrazol-4-yl]-(3-diethylamino-pyrrolidin-1-yl)-methanone (1 eq) (Example 28A]) and 3-methyl-1-butyne (1.2 eq) gave the title compound in 90% yield yellow viscous oil. MS: 407.4 (MH+).

reactant | [1-(3-bromo-phenyl)-3,5-dimethyl-1H-pyrazol-4-yl]-(3-diethylamino-pyrrolidin-1-yl)-methanone | 1 eq | BrC=1C=C(C=CC1)N1N=C(C(=C1C)C(=O)N1CC(CC1)N(CC)CC)C | C20H27BrN4O
reactant | 3-methyl-1-butyne | 1.2 eq | CC(C#C)C | C5H8
product | (3-Diethylamino-pyrrolidin-1-yl)-{3,5-dimethyl-1-[3-(3-methyl-but-1-ynyl)-phenyl]-1H-pyrazol-4-yl}-methanone | C(C)N(C1CN(CC1)C(=O)C=1C(=NN(C1C)C1=CC(=CC=C1)C#CC(C)C)C)CC | C25H34N4O
